US05550149
α-(3,4-Dimethoxyphenyl)-1,3-dihydro-5,6-dimethoxy-α-[(4-methylphenyl)thio]-2H-isoindole-2-heptanenitrile
To a solution of 3.03 g of α-(5-aminopentyl)-3,4-dimethoxy-α-[(4-methylphenyl)thio]benzeneacetonitrile, 1.85 g of 1,2-bis(chloromethyl)-3,4-dimethoxybenzene, 20 mL of toluene, and 0.22 g of tetrabutylammonium chloride, is added water containing 2 g of sodium hydroxide. The mixture is stirred for 48 hours. Upon adjusting the pH of the aqueous layer to pH 9 with solid sodium bicarbonate, the layers are separated and the aqueous layer further extracted with chloroform. After drying the combined organic extracts over sodium sulfate, they are passed through a pad of hydrous magnesium silicate, and concentrated in vacuo to a brown gum. This gum is purified by HPLC using a reverse phase C-18 radial-pak column (6 cm.×30 cm.) with a buffered solvent system (150 mL ammonium hydroxide in water adjusted to a pH 4.00 with acetic acid, then diluted to 7,875 mL with water; 5700 mL of acetonitrile and 1425 mL of methyl alcohol are added). After solvent removal, 0.85 g of the desired product is obtained as a yellow oil.

reactant | α-(5-aminopentyl)-3,4-dimethoxy-α-[(4-methylphenyl)thio]benzeneacetonitrile | 3.03 g | NCCCCCC(C#N)(C1=CC(=C(C=C1)OC)OC)SC1=CC=C(C=C1)C | C22H28N2O2S
reactant | 1,2-bis(chloromethyl)-3,4-dimethoxybenzene | 1.85 g | ClCC1=C(C(=C(C=C1)OC)OC)CCl | C10H12Cl2O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | tetrabutylammonium chloride | 0.22 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 2 g | O | H2O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | α-(3,4-Dimethoxyphenyl)-1,3-dihydro-5,6-dimethoxy-α-[(4-methylphenyl)thio]-2H-isoindole-2-heptanenitrile | 0.85 g | COC=1C=C(C=CC1OC)C(C#N)(CCCCCN1CC2=CC(=C(C=C2C1)OC)OC)SC1=CC=C(C=C1)C | C32H38N2O4S
